### PR TITLE
[Merged by Bors] - chore: use `induction` for `Quotient.induction` invocations

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Found through the regex `(refine|apply|exact).*Quotient.induction`. Includes the multiple-argument variants.

### CODE REVIEW

File: Mathlib/Combinatorics/Tiling/Tile.lean [hunk 1]
```diff
@@ -154,7 +154,7 @@ element of `G`, used with `induction pt using PlacedTile.induction_on`. -/
 @[elab_as_elim] protected lemma induction_on {ppt : PlacedTile ps → Prop} (pt : PlacedTile ps)
     (h : ∀ i : ιₚ, ∀ gx : G, ppt ⟨i, gx⟩) : ppt pt := by
   rcases pt with ⟨i, gx⟩
-  exact Quotient.inductionOn' gx (h i)
+  induction gx using Quotient.inductionOn; apply h
```
Comment (joneugster) [inline Mathlib/Combinatorics/Tiling/Tile.lean]:
```suggestion
  induction gx using Quotient.inductionOn
  apply h
```

File: Mathlib/Computability/TuringMachine/Tape.lean [hunk 2]
```diff
@@ -226,14 +226,14 @@ theorem ListBlank.nth_mk {Γ} [Inhabited Γ] (l : List Γ) (n : ℕ) :
 
 @[simp]
 theorem ListBlank.nth_zero {Γ} [Inhabited Γ] (l : ListBlank Γ) : l.nth 0 = l.head := by
-  conv => lhs; rw [← ListBlank.cons_head_tail l]
-  exact Quotient.inductionOn' l.tail fun l ↦ rfl
+  rw [← ListBlank.cons_head_tail l]
+  induction l.tail using Quotient.inductionOn'; rfl
```
Comment (joneugster) [inline Mathlib/Computability/TuringMachine/Tape.lean]:
```suggestion
  induction l.tail using Quotient.inductionOn'
  rfl
```

File: Mathlib/Computability/TuringMachine/Tape.lean [hunk 3]
```diff
@@ -226,14 +226,14 @@ theorem ListBlank.nth_mk {Γ} [Inhabited Γ] (l : List Γ) (n : ℕ) :
...
 
 @[simp]
 theorem ListBlank.nth_succ {Γ} [Inhabited Γ] (l : ListBlank Γ) (n : ℕ) :
     l.nth (n + 1) = l.tail.nth n := by
-  conv => lhs; rw [← ListBlank.cons_head_tail l]
-  exact Quotient.inductionOn' l.tail fun l ↦ rfl
+  rw [← ListBlank.cons_head_tail l]
+  induction l.tail using Quotient.inductionOn'; rfl
```
Comment (joneugster) [inline Mathlib/Computability/TuringMachine/Tape.lean]:
```suggestion
  induction l.tail using Quotient.inductionOn'
  rfl
```

File: Mathlib/Computability/TuringMachine/Tape.lean [hunk 4]
```diff
@@ -313,14 +313,14 @@ theorem ListBlank.map_mk {Γ Γ'} [Inhabited Γ] [Inhabited Γ'] (f : PointedMap
 @[simp]
 theorem ListBlank.head_map {Γ Γ'} [Inhabited Γ] [Inhabited Γ'] (f : PointedMap Γ Γ')
     (l : ListBlank Γ) : (l.map f).head = f l.head := by
-  conv => lhs; rw [← ListBlank.cons_head_tail l]
-  exact Quotient.inductionOn' l fun a ↦ rfl
+  rw [← ListBlank.cons_head_tail l]
+  induction l using Quotient.inductionOn'; rfl
```
Comment (joneugster) [inline Mathlib/Computability/TuringMachine/Tape.lean]:
```suggestion
  induction l using Quotient.inductionOn'
  rfl
```

File: Mathlib/Computability/TuringMachine/Tape.lean [hunk 5]
```diff
@@ -313,14 +313,14 @@ theorem ListBlank.map_mk {Γ Γ'} [Inhabited Γ] [Inhabited Γ'] (f : PointedMap
...
 
 @[simp]
 theorem ListBlank.tail_map {Γ Γ'} [Inhabited Γ] [Inhabited Γ'] (f : PointedMap Γ Γ')
     (l : ListBlank Γ) : (l.map f).tail = l.tail.map f := by
-  conv => lhs; rw [← ListBlank.cons_head_tail l]
-  exact Quotient.inductionOn' l fun a ↦ rfl
+  rw [← ListBlank.cons_head_tail l]
+  induction l using Quotient.inductionOn'; rfl
```
Comment (joneugster) [inline Mathlib/Computability/TuringMachine/Tape.lean]:
```suggestion
  induction l using Quotient.inductionOn'
  rfl
```

File: Mathlib/Data/Setoid/Basic.lean [hunk 6]
```diff
@@ -115,10 +115,8 @@ def prodQuotientEquiv (r : Setoid α) (s : Setoid β) :
     fun x y hxy ↦ Prod.ext (by simpa [Quotient.eq] using hxy.1) (by simpa [Quotient.eq] using hxy.2)
   left_inv q := by
     rcases q with ⟨qa, qb⟩
-    exact Quotient.inductionOn₂' qa qb fun _ _ ↦ rfl
-  right_inv q := by
-    simp only
-    refine Quotient.inductionOn' q fun _ ↦ rfl
+    induction qa, qb using Quotient.inductionOn₂'; rfl
```
Comment (joneugster) [inline Mathlib/Data/Setoid/Basic.lean]:
```suggestion
    induction qa, qb using Quotient.inductionOn₂'
    rfl
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 7]
```diff
@@ -591,8 +591,10 @@ def subtypeQuotientEquivQuotientSubtype (p₁ : α → Prop) {s₁ : Setoid α}
   invFun a :=
     Quotient.liftOn a (fun a => (⟨⟦a.1⟧, (hp₂ _).1 a.2⟩ : { x // p₂ x })) fun _ _ hab =>
       Subtype.ext (Quotient.sound ((h _ _).1 hab))
-  left_inv := by exact fun ⟨a, ha⟩ => Quotient.inductionOn a (fun b hb => rfl) ha
-  right_inv a := by exact Quotient.inductionOn a fun ⟨a, ha⟩ => rfl
+  left_inv a := by
+    obtain ⟨a, ha⟩ := a
+    induction a using Quotient.inductionOn; rfl
```
Comment (joneugster) [inline Mathlib/Logic/Equiv/Basic.lean]:
```suggestion
    induction a using Quotient.inductionOn
    rfl
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 8]
```diff
@@ -253,8 +253,8 @@ theorem bounded_singleton {r : α → α → Prop} [IsWellOrder α r] (hr : IsSu
 @[simp]
 theorem typein_ordinal (o : Ordinal.{u}) :
     @typein Ordinal (· < ·) _ o = Ordinal.lift.{u + 1} o := by
-  refine Quotient.inductionOn o ?_
-  rintro ⟨α, r, wo⟩; apply Quotient.sound
+  induction o using Quotient.inductionOn with | _ w
+  obtain ⟨α, r, wo⟩ := w; apply Quotient.sound
```
Comment (joneugster) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]:
```suggestion
  obtain ⟨α, r, wo⟩ := w
  apply Quotient.sound
```

**Review by joneugster — COMMENTED** [review]
Thank you for the PR, looks reasonable.

Following the [style guide](https://leanprover-community.github.io/contribute/style.html), let's not use `;` unless the entire proof fits on a single line

**Review by joneugster — APPROVED** [review]
thanks!

maintainer merge

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
